US06506901B2
Step C: 4-[(4-{[(2S)-3-(9H-Carbazol-4-yloxy)-2-hydroxy-propylamino]-methyl}-piperidine-1-carbonyl)-amino]-benzoic Acid Ethyl Ester
Prepared from 4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.150 g, 0.63 mmol) and 3-(4-aminomethyl-1-piperidinyl)-1-(4-ethoxycarbonylphenyl) urea (0.305 g, 1.0 mmol) according to the procedure used in example 2 to give 0.080 g of the title compound as a white solid.

reactant | 4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.63 mmol, 0.150 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 3-(4-aminomethyl-1-piperidinyl)-1-(4-ethoxycarbonylphenyl) urea | 1.0 mmol, 0.305 g | NCC1CCN(CC1)NC(NC1=CC=C(C=C1)C(=O)OCC)=O | C16H24N4O3
product | 4-[(4-{[(2S)-3-(9H-Carbazol-4-yloxy)-2-hydroxy-propylamino]-methyl}-piperidine-1-carbonyl)-amino]-benzoic Acid Ethyl Ester | 0.080 g | C(C)OC(C1=CC=C(C=C1)NC(=O)N1CCC(CC1)CNC[C@@H](COC1=CC=CC=2NC3=CC=CC=C3C12)O)=O | C31H36N4O5
